US04609644
Preparation of Etoposide (4'-demethylepipodophyllotoxin-beta-D-ethylidene-glucoside)
1.5 g. of dry 4'-demethylepipodophyllotoxin-beta-D-glucoside was suspended in 30 ml. of nitromethane, and 6 ml. of acetaldehyde-dimethylacetal and 150 mg. of p-toluene-sulphonic acid was added. The mixture was stirred at room temperature in an atmosphere of nitrogen and in the absence of moisture for one hour. After this time, the initial suspension had turned into a clear solution, and no starting material could be detected in the thin layer chromatogram (silica gel plates, eluant: chloroform+6% of methanol). Working up was effected by diluting with 400 ml. of chloroform and shaking out three times with 25 ml. each of water. The crude material obtained after concentrating the dried organic phase by evaporation was subsequently chromatographed on 100 g. of silica gel "Merck" (grain size 0.05 to 0.2 mm.), whereby chloroform containing 6% of methanol was continuously used as eluant. 4'-demethylepipodophyllotoxin-beta-D-ethylidene-glucoside, which is uniform according to thin layer chromatography, was obtained. After recrystallization from methanol colorless crystals having a M.P. of 236°-251° C., [α ]D22 =-110.5° (c.=0.588 in chloroform), were obtained.

reactant | 4'-demethylepipodophyllotoxin-beta-D-glucoside | COC1=CC(=CC(=C1O)OC)[C@H]2[C@@H]3[C@H](COC3=O)[C@@H](C4=CC5=C(C=C24)OCO5)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO)O)O)O | C27H30O13
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
reactant | acetaldehyde-dimethylacetal | COC(C)OC | C4H10O2
reactant | p-toluene-sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | Etoposide | C[C@@H]1OC[C@@H]2[C@@H](O1)[C@@H]([C@H]([C@@H](O2)O[C@@H]3C=4C=C5C(=CC4[C@H]([C@@H]6[C@@H]3COC6=O)C7=CC(=C(C(=C7)OC)O)OC)OCO5)O)O | C29H32O13
